.SUBCKT invaA_SVT VH VL A Y 
M0 VL A device_2 VSS NMOS w=1.2µ l=0.18µ 
M1 device_2 A Y VSS NMOS w=1.2µ l=0.18µ 
M2 VH A device_9 VDD PMOS w=1.2µ l=0.18µ 
M3 device_9 A Y VDD PMOS w=1.2µ l=0.18µ 
.ENDS